US04913837
Example 11 is repeated by reacting hex-1-en-3-one (preparable starting from butanoyl chloride analogously to the vinyl ketone in Example 11) and 1-piperidino-2-(4'-pentylbiphenyl-4-yl)ethene (preparable analogously to the preparation of the enamine in Example 11) to give 5-(4'-pentylbiphenyl-4-yl)-2-propylpyridine having SE 178° SB 211° SA 222° I.

reactant | hex-1-en-3-one | C=CC(CCC)=O | C6H10O
reactant | butanoyl chloride | C(CCC)(=O)Cl | C4H7ClO
reactant | vinyl ketone | C(=C)C(=O)C=C | C5H6O
reactant | 1-piperidino-2-(4'-pentylbiphenyl-4-yl)ethene | N1(CCCCC1)C=CC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCC | C24H31N
product | 5-(4'-pentylbiphenyl-4-yl)-2-propylpyridine | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1C=CC(=NC1)CCC | C25H29N
